US07906546B2
To a stirred suspension of 14 g (0.129 mol, 1.4 eq) of 3-hydroxy-1,1-dimethyl-guanidine in 300 mL dry THF at 0° C. was added portionwise 6.191 g (0.155 mol, 1.2 eq) of NaH (60% in oil). The resulting heavy suspension was stirred at RT for 1 hour 30 minutes. Then, 28.126 g (0.129 mol) phenylsulfanyl-acetic acid ethyl ester were slowly added. The reaction mixture was stirred at RT for 2 hours and then at 65° C. for 1 hour. The reaction was quenched by addition of a saturated aqueous solution of NH4Cl and the product extracted with EtOAc. The combined organic phase was dried on Na2SO4, filtered and evaporated. Column chromatography on silica gel (EtOAc/heptane, 1:9 to 1:2) yielded 19.370 g (64%) dimethyl-(5-phenylsulfanylmethyl-[1,2,4]oxadiazol-3-yl)-amine as a colorless oil, MS: 236 (MH+).

reactant | 3-hydroxy-1,1-dimethyl-guanidine | 0.129 mol, 14 g, 1.4 eq | ONC(N(C)C)=N | C3H9N3O
reactant | NaH | 0.155 mol, 6.191 g, 1.2 eq | [H-].[Na+]
reactant | phenylsulfanyl-acetic acid ethyl ester | 0.129 mol, 28.126 g | C(C)OC(CSC1=CC=CC=C1)=O | C10H12O2S
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | dimethyl-(5-phenylsulfanylmethyl-[1,2,4]oxadiazol-3-yl)-amine | 19.370 g, 64% | CN(C1=NOC(=N1)CSC1=CC=CC=C1)C | C11H13N3OS
